US06331538B1
N-Benzyloxy-2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxamide
To a solution of 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylic acid (Example G-2, 215 mg, 0.80 mmol) and 1-hydroxybenzotriazole (HOBT) (119 mg, 0.88 mmol) in chloroform (10 mL) was added 1-ethyl-3-(3′-dimethylamino-propyl)carbodiimide (EDCI) (169 mg, 0.88 mmol). After being stirred at room temperature for 30 minutes, O-benzylhydroxylamine hydrochloride (141 mg, 0.88 mmol) and triethylamine (0.122 mL, 0.88 mmol) were added. The reaction mixture was heated to reflux for 4 hours, diluted with dichloromethane, washed with water, and dried on sodium sulfate. The residue was purified by flash chromatography on a silica gel column with dichloromethane as eluent giving 155 mg of the title compound as an oil.

reactant | 2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxylic acid | 0.80 mmol, 215 mg | C1(CC1)NC1=NC(=C(C=C1C(=O)O)F)N1CCCC1 | C13H16FN3O2
reactant | 1-hydroxybenzotriazole | 0.88 mmol, 119 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3′-dimethylamino-propyl)carbodiimide | 0.88 mmol, 169 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | O-benzylhydroxylamine hydrochloride | 0.88 mmol, 141 mg | Cl.C(C1=CC=CC=C1)ON
reactant | triethylamine | 0.88 mmol, 0.122 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-Benzyloxy-2-cyclopropylamino-5-fluoro-6-pyrrolidinyl-3-pyridinecarboxamide | 155 mg | C(C1=CC=CC=C1)ONC(=O)C=1C(=NC(=C(C1)F)N1CCCC1)NC1CC1 | C20H23FN4O2
